US06664111B2
Synthesis of 4-[4-(allyloxy)phenyl]-7-phenyl-1,10-phenanthroline
4-p-hydroxyphenyl-7-phenyl-1,10-phenanthroline (0. 348 g) is reacted with Na metal (0.023 g) in ethylene glycol dimethyl ether (100 mL). To this mixture is added a solution of allylbromide (0.125 g) in ethylene glycol dimethyl ether (10 mL). The resulting mixture is stirred at 35° C. for 24 hours, or until the reaction is judged complete by TLC. The reaction mixture is diluted with toluene, washed with 10% NaOH, washed with water and dried over MgSO4. Roto-evaporation of the solvent gives a residue that is purified by column chromatography on silica gel.

reactant | 4-p-hydroxyphenyl-7-phenyl-1,10-phenanthroline | 348 g | OC1=CC=C(C=C1)C1=CC=NC2=C3N=CC=C(C3=CC=C12)C1=CC=CC=C1 | C24H16N2O
reactant | allylbromide | 0.125 g | C(C=C)Br | C3H5Br
solvent | ethylene glycol dimethyl ether | 100 mL | COCCOC | C4H10O2
solvent | ethylene glycol dimethyl ether | 10 mL | COCCOC | C4H10O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-[4-(allyloxy)phenyl]-7-phenyl-1,10-phenanthroline | C(C=C)OC1=CC=C(C=C1)C1=CC=NC2=C3N=CC=C(C3=CC=C12)C1=CC=CC=C1 | C27H20N2O
